US08227504B2
(2S,3R)-Furan-3-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as example 20 by coupling (2S,3R)-2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine with 3-furoyl chloride in 35% yield.

reactant | (2S,3R)-2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1C[C@H](CC1)CN1[C@H](CCC1)C)N | C17H27N3
reactant | 3-furoyl chloride | O1C=C(C=C1)C(=O)Cl | C5H3ClO2
product | (2S,3R)-Furan-3-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-yl-methyl)-pyrrolidin-1-yl]-phenyl}-amide | 35% yield | CC1=C(C=CC(=C1)N1C[C@H](CC1)CN1[C@H](CCC1)C)NC(=O)C1=COC=C1 | C22H29N3O2
